US08486966B2
(R)—N-(2-{[tert-Butyl(dimethyl)silyl]oxy}ethylidene)-2-methylpropane-2-sulfinamide
To a solution of (R)-2-methylpropane-2-sulfinamide (2.5 g, 20.6 mmol) and {[tert-butyl(dimethyl)silyl]oxy}acetaldehyde (4.32 ml, 22.7 mmol) in CH2Cl2 (30 ml) was added CuSO4 (7.23 g, 45.32 mmol). The reaction mixture was stirred at room temperature for 2 days. The mixture was filtered through Centel), washed with CH2Cl2 and concentrated in vacuo. Column chromatography (0-30% EtOAc in hexanes) gave the desired product (R)—N-(2-{[tert-butyl(dimethyl)silyl]oxy}ethylidene)-2-methylpropane-2-sulfinamide (Tetrahedron Lett. 2001, 42, 2051-54). 1H NMR (300 MHz, CDCl3) δ 7.86-8.24 (m, 1H) 4.53 (d, J=3.01 Hz, 2H) 1.15-1.23 (m, 9H) 0.90 (s, 9H) 0.08 (s, 6H).

reactant | (R)-2-methylpropane-2-sulfinamide | 20.6 mmol, 2.5 g | CC(C)(C)[S@@](=O)N | C4H11NOS
reactant | {[tert-butyl(dimethyl)silyl]oxy}acetaldehyde | 22.7 mmol, 4.32 ml | [Si](C)(C)(C(C)(C)C)OCC=O | C8H18O2Si
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | CuSO4 | 45.32 mmol, 7.23 g | [O-]S(=O)(=O)[O-].[Cu+2]
product | (R)—N-(2-{[tert-butyl(dimethyl)silyl]oxy}ethylidene)-2-methylpropane-2-sulfinamide | [Si](C)(C)(C(C)(C)C)OCC=N[S@](=O)C(C)(C)C | C12H27NO2SSi
